US06562319B2
In one particular, 3,4-dichloro-6-fluoroaniline is reacted with 4-chloro-6-nitroquinazoline, so as to produce 4-[(3,4-dichloro-6-fluorophenyl)amino]-6-nitroquinazoline, which is reduced, by means of an ethanolic solution of hydrazine hydrate and Raney®Nickel, so as to produce 4-[(3,4-dichloro-6-fluorophenyl)amino]-6-aminoquinazoline. Then, the 4-[(3,4-dichloro-6-fluorophenyl)amino]-6-aminoquinazoline is reacted with a carbon-11 labeled acryloyl chloride so as to produce a carbon-11 labeled {4-[(3,4-dichloro-6-fluorophenyl)amino]quinazoline-6-yl]acrylamide (radiolabeled Compound 3).

reactant | 3,4-dichloro-6-fluoroaniline | ClC=1C=C(N)C(=CC1Cl)F | C6H4Cl2FN
reactant | 4-chloro-6-nitroquinazoline | ClC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H4ClN3O2
product | 4-[(3,4-dichloro-6-fluorophenyl)amino]-6-nitroquinazoline | ClC=1C=C(C(=CC1Cl)F)NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C14H7Cl2FN4O2
